US05359067
1.06 g (6 mmol) of 5-methyl-4-(1,2,4-triazol-1-yl)-pyrimidin-2(1H)-one are added to a solution of 2.34 g (18 mmol) of sodium benzylate in 25 ml of dry benzyl alcohol and 25 ml of dry dimethylformamide are added. The mixture is heated for 2 hours with stirring to 100° C. The cooled solution is neutralized with acetic acid, concentrated and chromatographed on silica gel using ethylacetate/methanol 9/1. 880 mg (67.9% of theory) of 4-benzyloxy-5-methylpyrimidin-2(1H)-one are obtained with melting point 181°-182°C. 1H NMR (270 MHz, d6 -DMSO), δ[ppm]: 11.14 (s, 1H), 7.56 (d, 1H), 7.41 (m, 5H), 5.35 (s, 2H), 1.87 (s, 3H).

reactant | 5-methyl-4-(1,2,4-triazol-1-yl)-pyrimidin-2(1H)-one | 6 mmol, 1.06 g | CC=1C(=NC(NC1)=O)N1N=CN=C1 | C7H7N5O
reactant | sodium | 18 mmol, 2.34 g | [Na] | Na
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | benzyl alcohol | 25 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 4-benzyloxy-5-methylpyrimidin-2(1H)-one | 880 mg, 67.9% | C(C1=CC=CC=C1)OC1=NC(NC=C1C)=O | C12H12N2O2
